US09162979B2
(S)-3-(Hydroxy)-2-[[1-phenyl-2-methyl-5-(4-methylsulphonylphenyl)-1H-pyrrol-3-yl]acetamido]propanoic Acid
The following are added, at 0° C., to acid 6a (0.8 mmol) in DCM (10 ml): DIPEA (2.43 mmol), EDC (1.63 mmol), HOBt (0.27 mmol) and L-serine ethyl ester dihydrochloride (0.8 mmol). It is stirred at RT for 12 hours, then it is washed with H2O, the organic phase is separated, dried and concentrated. The residue is purified by chromatography (silica, EtOAc/MeOH (9:1)) obtaining: N-[1-(carboxyethyl)-2-hydroxyethyl]-2-[1-phenyl-2-methyl-5-(4-methanesulphonylphenyl)-1H-pyrrol-3-yl]-acetamide. Oil, yield 77%. 1H NMR (CDCl3) ppm: 1.25 (t, 3H); 2.05 (s, 3H); 2.70 (broad t, 1H); 2.97 (s, 3H); 3.51 (s, 2H); 3.93 (m, 2H); 4.20 (m, 2H); 4.63 (m, 1H), 6.48 (s, 1H); 6.74 (broad d, 1H), 7.11-7.16 (m, 4H); 7.37-7.40 (m, 3H); 7.60-7.64 (m, 3H). The carboxyethyl derivative (0.55 mmol) is treated with NaOH (0.55 mmol) in EtOH (5 ml), at 0° C., for 1 hour. It is acidified with 3N HCl to pH 6; the solvent is evaporated and the residue is taken up in EtOAc. The organic phase is washed until neutral with NaCl s.s., dried and concentrated. The residue is treated with EtOAc/n-hexane to give the product, m.p. 80-83° C., yield 50%. 1H NMR (DMSO-d6) ppm: 1.97 (s, 3H); 3.11 (s, 3H); 3.34 (s, 2H); 3.55-3.75 (m, 2H); 4.23-4.31 (m, 1H); 4.95-5.04 (s broad, 1H); 6.54 (s, 1H); 7.10-7.22 (m, 4H); 7.40-7.49 (m, 2H); 7.59-7.66 (m, 2H); 8.06-8.10 (broad d, 1H); 12.59 (broad s, 1H). MS ESI: m/z 455 (M−H+); m/z 495 (M+K+).

reactant | DIPEA | 2.43 mmol | CCN(C(C)C)C(C)C | C8H19N
reactant | EDC | 1.63 mmol
reactant | HOBt | 0.27 mmol | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | L-serine ethyl ester dihydrochloride | 0.8 mmol | Cl.Cl.C(C)OC([C@@H](N)CO)=O
reactant | N-[1-(carboxyethyl)-2-hydroxyethyl]-2-[1-phenyl-2-methyl-5-(4-methanesulphonylphenyl)-1H-pyrrol-3-yl]-acetamide | C(=O)(O)CCC(CO)NC(CC1=C(N(C(=C1)C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=CC=C1)C)=O | C25H28N2O6S
reactant | NaOH | 0.55 mmol | [OH-].[Na+]
reactant | HCl | 3N | Cl | ClH
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | EtOH | 5 ml | CCO | C2H6O
product | (S)-3-(Hydroxy)-2-[[1-phenyl-2-methyl-5-(4-methylsulphonylphenyl)-1H-pyrrol-3-yl]acetamido]propanoic Acid | yield 77% | OC[C@@H](C(=O)O)NC(CC1=C(N(C(=C1)C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=CC=C1)C)=O | C23H24N2O6S
